US04459414
4,5-Bis-(phenylthio)-3,6-bis-(p-nitrophenylthio)-phthalic acid N-n-butylimide
2 g (4.09 millimols) of 4,5-bis-(phenylthio)-3,6-dichlorophthalic acid N-n-butylimide, 1.46 g (9.41 millimoles) of p-nitrothiophenol, 2.55 g (18.45 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 50° C. for 20 hours. The mixture is cooled, acidified and extracted with methylene chloride. After recrystallisation from tetrahydrofuran, 1.9 g (78% of theory) of the title compound are obtained; melting point 175°-7° C.

reactant | 4,5-bis-(phenylthio)-3,6-dichlorophthalic acid N-n-butylimide | 4.09 millimols, 2 g | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)SC1=CC=CC=C1)SC1=CC=CC=C1)Cl)O | C24H21Cl2NO3S2
reactant | p-nitrothiophenol | 9.41 millimoles, 1.46 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 18.45 millimols, 2.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4,5-Bis-(phenylthio)-3,6-bis-(p-nitrophenylthio)-phthalic acid N-n-butylimide | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1SC1=CC=C(C=C1)[N+](=O)[O-])SC1=CC=CC=C1)SC1=CC=CC=C1)SC1=CC=C(C=C1)[N+](=O)[O-])O | C36H29N3O7S4
